US04496572
Methyl magnesium bromide (15 ml of a 3M solution in ether was added dropwise over 5 minutes to a stirred solution of 7-bromo-2-(3-pyridylmethyl)-1-tetralone (3.20 g) in dry tetrahydrofuran (50 ml). The resulting mixture was heated under reflux with stirring for 10 hours and then cooled. An excess of aqueous ammonium chloride solution was added and the mixture was extracted several times with ether. The combined ethereal extracts were dried (Na2SO4) and evaporated. The residue was chromatographed on silica gel. Elution with chloroform gave 7-bromo-1-hydroxy-1-methyl-2-(3-pyridylmethyl)-1,2,3,4-tetrahydronaphthalene (2.87 g) as a mixture of isomers which was used directly in the next stage.

reactant | Methyl magnesium bromide | C[Mg]Br
reactant | 7-bromo-2-(3-pyridylmethyl)-1-tetralone | 3.20 g | BrC1=CC=C2CCC(C(C2=C1)=O)CC=1C=NC=CC1 | C16H14BrNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-bromo-1-hydroxy-1-methyl-2-(3-pyridylmethyl)-1,2,3,4-tetrahydronaphthalene | 2.87 g | BrC1=CC=C2CCC(C(C2=C1)(C)O)CC=1C=NC=CC1 | C17H18BrNO
